US08609853B2
4-Amino-3-chloro-5-fluoro-6-(4-chloro-2-fluoro-3-methoxy-phenyl)picolinonitrile
A mixture of 4-amino-3,6-dichloro-5-fluoropicolinonitrile (0.37 g, 1.80 mmol), 2-(4-chloro-2-fluoro-3-methoxyphenyl)-1,3,2-dioxaborinane (0.549 g, 2.24 mmol) and KF (0.209 g, 3.59 mmol) was taken into acetonitrile (6.75 mL) and water (2.25 mL). The mixture was stirred and sparged with a nitrogen atmosphere. Pd(PPh3)2Cl2 (63 mg, 0.1 mmol) was added, and the mixture was again sparged with nitrogen. The solution was then heated to 75° C. under nitrogen for 2 h. Upon cooling down, a precipitate formed and was collected by filtration, washed with water and dried under vacuum to give the product (0.34 g) as an off-white solid. The aqueous phase was extracted with EtOAc (3×), and the combined organic extracts were washed with brine, dried, and concentrated. Purification by silica gel chromatography gave additional product (0.12 g) as a white solid. Total yield 78%. 1H NMR (400 MHz, DMSO-d6) δ 7.50 (dd, J=8.5, 1.4 Hz, 1H), 7.45 (s, 2H), 7.33 (dd, J=8.5, 7.2 Hz, 1H), 3.94 (s, 3H); 13C {1H} NMR (101 MHz, DMSO-d6) δ 152.97 (d, J=253.2 Hz), 145.73 (d, J=260.8 Hz), 143.82 (d, J=13.7 Hz), 141.83 (d, J=14.7 Hz), 138.45 (d, J=14.8 Hz), 133.93-132.79 (m), 128.93 (d, J=3.3 Hz), 127.74 (s), 126.37-125.10 (m), 122.08 (dd, J=13.6, 3.9 Hz), 119.34 (d, J=4.5 Hz), 114.99 (s), 61.61 (s); 19F NMR (376 MHz, DMSO-d6) δ −129.00 (dd, J=28.2, 7.0 Hz, 1F), −133.76 (d, J=28.2 Hz, 1F); ESIMS m/z 330.1 ([M+H]+).

reactant | 4-amino-3,6-dichloro-5-fluoropicolinonitrile | 1.80 mmol, 0.37 g | NC1=C(C(=NC(=C1F)Cl)C#N)Cl | C6H2Cl2FN3
reactant | 2-(4-chloro-2-fluoro-3-methoxyphenyl)-1,3,2-dioxaborinane | 2.24 mmol, 0.549 g | ClC1=C(C(=C(C=C1)B1OCCCO1)F)OC | C10H11BClFO3
reactant | KF | 3.59 mmol, 0.209 g | [F-].[K+]
reactant | acetonitrile | 6.75 mL | C(C)#N | C2H3N
catalyst | Pd(PPh3)2Cl2 | 0.1 mmol, 63 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 2.25 mL | O | H2O
product | 4-Amino-3-chloro-5-fluoro-6-(4-chloro-2-fluoro-3-methoxy-phenyl)picolinonitrile | 0.34 g | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)Cl)OC)F)C#N)Cl | C13H7Cl2F2N3O
